US07713994B2
2-Hydroxymethyl-5-(3-furyl)-pyridin-4-ol
A mixture of 2-hydroxymethyl-5-furan-3-yl-pyran-4-one (1.92 g, 10.0 mmole) and 7 M ammonia in methanol (50.0 mL) is stirred and heated in a sealed vessel at 90° C. overnight. The reaction mixture is cooled, evaporated to dryness in-vacuo, taken up in 15% methanol in chloroform and passed thru a pad of magnesol and silica gel eluting with the same solvent. The eluate is evaporated, treated with acetone, filtered, washed with acetone and air dried to give a-grey solid, 1.21 g, (63%); MS (ES+): m/z 192.2 (M+H).

reactant | 2-hydroxymethyl-5-furan-3-yl-pyran-4-one | 10.0 mmole, 1.92 g | OCC=1OC=C(C(C1)=O)C1=COC=C1 | C10H8O4
reactant | ammonia | 7 M | N | H3N
solvent | methanol | 50.0 mL | CO | CH4O
product | 2-Hydroxymethyl-5-(3-furyl)-pyridin-4-ol | OCC1=NC=C(C(=C1)O)C1=COC=C1 | C10H9NO3
